US06265411B1
Using an analogous procedure to that described in Example 50, 5-bromooxindole (318 mg, 1.5 mmol), (prepared according to J. Am. Chem. Soc. 1975, 67, 1656), was treated with sodium hydride (60 mg, 1.5 mmol) in DMF (4 ml) and 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (169 mg, 0.5 mmol), (prepared as described for the starting material in Example 5), to give 4-(5-bromooxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline hydrochloride (108 mg, 35%).

reactant | 5-bromooxindole | 1.5 mmol, 318 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | sodium hydride | 1.5 mmol, 60 mg | [H-].[Na+]
reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.5 mmol, 169 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 4-(5-bromooxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline hydrochloride | 108 mg, 35% | Cl.BrC=1C=C2C(C(NC2=CC1)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | InChI=1S/C24H25BrN4O4.ClH/c1-31-20-12-17-19(13-21(20)33-8-2-5-29-6-9-32-10-7-29)26-14-27-23(17)22-16-11-15(25)3-4-18(16)28-24(22)30;/h3-4,11-14,22H,2,5-10H2,1H3,(H,28,30);1H
